US04755323
One boils 27.8 g. (trans-5-pentyl-1,4-dioxanyl)-benzoic acid (obtainable by reaction of trans-2-phenyl-5-pentyl-1,4-dioxane with CH3COCl/AlCl3 to give 2-p-acetylphenyl-5-pentyl-1,4-dioxane and decomposition with bromine/KOH) for 1 hour with 24 g. SOCl2, dissolves the crude acid chloride obtained in 150 ml. toluene, mixes with 8 ml. pyridine and 16.6 g. trans-4-pentylcyclohexanol and boils for 2 hours. After cooling and usual working up, one obtains p-(trans-5-pentyl-1,4-dioxan-2-yl)-benzoic acid trans-4-pentylcyclohexyl ester.

reactant | (trans-5-pentyl-1,4-dioxanyl)-benzoic acid | C(CCCC)[C@H]1OC[C@@H](OC1)C1=C(C(=O)O)C=CC=C1 | C16H22O4
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | trans-4-pentylcyclohexanol | C(CCCC)[C@@H]1CC[C@H](CC1)O | C11H22O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-(trans-5-pentyl-1,4-dioxan-2-yl)-benzoic acid trans-4-pentylcyclohexyl ester | C(CCCC)[C@@H]1CC[C@H](CC1)OC(C1=CC=C(C=C1)[C@@H]1OC[C@H](OC1)CCCCC)=O | C27H42O4
